US08026234B2
2-Fluoro-5-methoxy-N-(1-methylpiperidin-4-yl)-4-nitrobenzamide:
To a mixture of 2-fluoro-5-methoxy-4-nitrobenzoic acid (53.8 g, 250 mmol), 1-methylpiperidin-4-amine (31.4 g, 275 mmol), DIEA (134 mL, 750 mmol) in 1 L of DCM at 0° C. was added HATU (114 g, 300 mmol) in four batches. The reaction mixture was stirred at room temp. for 16 h. After which, it was concentrated and diluted to IL of a mixture of MeOH in water (5%). The suspension was stirred vigorously for 2 h until seen a suspension of fine powder. The solid was filtered, washed with more water and dried to give 55 g of light yellow product. The filtrate was extracted with EtOAc, concentrated and re-suspended in water (5% of MeOH) and repeating the same procedure as above, after which another batch of solid was obtained (total 67 g, 86%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.53 (m, 2H) 1.81 (m, 2H) 2.04 (m, 2H) 2.19 (s, 3H) 2.77 (d, J=8 Hz, 2H) 3.73 (m, 1H) 3.94 (s, 3H) 7.42 (d, J=5.6 Hz, 1H) 7.98 (d, J=8.8 Hz, 1H) 8.51 (d, J=7.6 Hz, 1H). [M+H] calc'd for C14H18FN3O4, 312. found 312.

reactant | 2-fluoro-5-methoxy-4-nitrobenzoic acid | 250 mmol, 53.8 g | FC1=C(C(=O)O)C=C(C(=C1)[N+](=O)[O-])OC | C8H6FNO5
reactant | 1-methylpiperidin-4-amine | 275 mmol, 31.4 g | CN1CCC(CC1)N | C6H14N2
reactant | DIEA | 750 mmol, 134 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 300 mmol, 114 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 1 L | C(Cl)Cl | CH2Cl2
product | 2-Fluoro-5-methoxy-N-(1-methylpiperidin-4-yl)-4-nitrobenzamide | 55 g | FC1=C(C(=O)NC2CCN(CC2)C)C=C(C(=C1)[N+](=O)[O-])OC | C14H18FN3O4
